US20010001799A1
A solution of cyclopropylmagnesium bromide, freshly prepared from 2.49 g of magnesium and 13.3 g of cyclopropyl bromide in 40 ml of THF, was treated with 1.2 g of bistriphenyl-phosphine-nickel chloride and at 35-45° C. within 20 minutes with a solution of 20.8 g of 2-ethyl-4-iodo-1-methoxymethoxy-benzene in 40 ml of toluene. After stirring for 2 hours the reaction mixture was poured into aqueous ammonium chloride solution and extracted with ether. The organic phases were washed with water, saturated aqueous sodium bicarbonate solution and sodium chloride solution, dried over magnesium sulphate and concentrated. The residue was chromatographed over silica gel and gave 12.7 g of 4-cyclopropyl-2-ethyl-1-methoxymethoxy-benzene; MS (EI) m/z 206 (M), 176 (M−CH2O).

reactant | cyclopropylmagnesium bromide | C1(CC1)[Mg]Br
reactant | magnesium | 2.49 g | [Mg] | Mg
reactant | cyclopropyl bromide | 13.3 g | C1(CC1)Br | C3H5Br
reactant | 2-ethyl-4-iodo-1-methoxymethoxy-benzene | 20.8 g | C(C)C1=C(C=CC(=C1)I)OCOC | C10H13IO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-cyclopropyl-2-ethyl-1-methoxymethoxy-benzene | 12.7 g | C1(CC1)C1=CC(=C(C=C1)OCOC)CC | C13H18O2
